US09334263B2
To a solution of tert-butyl 4-(5-benzyl-4-hydroxypyrimidin-2-yl)piperazine-1-carboxylate (4.3 g, 11.5 mmol), triethylamine (3.2 mL, 23 mmol) and N,N-dimethylpyridin-4-amine (183 mg, 1.15 mmol) in dichloromethane (40 mL) was added trifluoromethanesulfonic anhydride (2.3 mL, 13.9 mmol). The reaction mixture was stirred at RT for 1 h, and diluted with dichloromethane (200 mL). The organic phase was washed with water (200 mL) and brine (100 mL), dried over sodium sulfate, filtered and concentrated. The residue was purified by silica gel chromatography (petroleum ether/ethyl acetate=10:1 to 5:1) to give tert-butyl 4-(5-benzyl-4-(trifluoromethylsulfonyloxy)pyrimidin-2-yl)piperazine-1-carboxylate (2.4 g, 41%) as a yellow oil. MS (ES+) C21H25F3N4O5S requires: 502, found: 525 [M+Na]+

reactant | tert-butyl 4-(5-benzyl-4-hydroxypyrimidin-2-yl)piperazine-1-carboxylate | 11.5 mmol, 4.3 g | C(C1=CC=CC=C1)C=1C(=NC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C)O | C20H26N4O3
reactant | triethylamine | 23 mmol, 3.2 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 13.9 mmol, 2.3 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
catalyst | N,N-dimethylpyridin-4-amine | 1.15 mmol, 183 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | tert-butyl 4-(5-benzyl-4-(trifluoromethylsulfonyloxy)pyrimidin-2-yl)piperazine-1-carboxylate | 2.4 g, 41% | C(C1=CC=CC=C1)C=1C(=NC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C)OS(=O)(=O)C(F)(F)F | C21H25F3N4O5S
